US04497805
Methyl 3α-ethoxy-2β-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate hydrochloride solution
Methyl 3α-ethoxy-2β-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β carboxylate (100 mg) was dissolved in 0.0987M HCl solution (2.2 ml) as far as possible. The mixture was made up to 15 g the addition of water and filtered. The residue was collected, dried and weighed. This gave a 0.56% solution with respect to free base, pH 2.2.

reactant | Methyl 3α-ethoxy-2β-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β carboxylate | 100 mg | C(C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C[C@@H]1O)C)NCCC(C)C)C(=O)OC | C28H49NO4
reactant | water | O | H2O
reactant | HCl | 0.0987M, 2.2 ml | Cl | ClH
product | Methyl 3α-ethoxy-2β-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate hydrochloride | 0.56% | Cl.C(C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C[C@@H]1O)C)NCCC(C)C)C(=O)OC | InChI=1S/C28H49NO4.ClH/c1-7-33-24-14-18-8-9-19-20-10-11-21(26(31)32-6)28(20,5)15-22(29-13-12-17(2)3)25(19)27(18,4)16-23(24)30;/h17-25,29-30H,7-16H2,1-6H3;1H/t18-,19-,20-,21+,22+,23-,24-,25+,27-,28-;/m0./s1
